US07342127B2
Bis-(3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate of Part 8A (1.50 g, 2.93 mmol) and Copper powder (0.286 g, 4.50 mmol) was mixed in CH2Cl2 (10 mL) and the resulting suspension was cooled to 0° C. While stirring, a solution of 2,6-dibromo-3-methyl-4-nitrophenol (0.7 g, 2.25 mmol), Et3N (0.63 mL, 4.5 mmol) and CH2Cl2 (5 mL) was added and the flask covered by aluminium foil. After 2 days stirring in the dark at room temperature the crude reaction mixture was washed with 1N HCl (15 mL) and a phase separator (IST) was used to separate the two phases. The aqueous phase was extracted by CHCl3 and the collected organic phases were concentrated in vacuo. The crude residue was purified on column (MPLC, silica gel, gradient elution: n-heptane/EtOAc from 1:0 to 95:5) to give 561 mg (54%) of 4-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-isopropylanisole as a light yellow solid.

reactant | Bis-(3-isopropyl-4-methoxyphenyl)iodonium tetrafluoroborate | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
reactant | 2,6-dibromo-3-methyl-4-nitrophenol | 2.25 mmol, 0.7 g | BrC1=C(C(=CC(=C1C)[N+](=O)[O-])Br)O | C7H5Br2NO3
reactant | Et3N | 4.5 mmol, 0.63 mL | CCN(CC)CC | C6H15N
reactant | aluminium | [Al] | Al
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | Copper | 4.50 mmol, 0.286 g | [Cu] | Cu
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,6-dibromo-3-methyl-4-nitrophenoxy)-2-isopropylanisole | 561 mg, 54% | BrC1=C(OC2=CC(=C(C=C2)OC)C(C)C)C(=CC(=C1C)[N+](=O)[O-])Br | C17H17Br2NO4
